US07550484B2
COMPOUND 130: 1′-[2-(1-Allyl-1H-imidazol-4-yl)-ethyl]-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine
To a solution of 1′-[2-(3H-imidazol-4-yl)-ethyl]-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (202 mg, 0.56 mmol) in THF (5 mL) at 0° C. was added NaH (60%, 8 mg, 0.21 mmol). After 30 min at 0° C., allyl bromide (16 mL, 0.19 mmol) was added. After 4 h, the reaction mixture was concentrated to afford an orange solid. Purification by radial chromatography on silica gel (2 mm plate; using CH2Cl2/CH3OH/NH4OH; 50:1:1→10:1:1) afforded the product as a pale yellow oil (25 mg, 33%). 1H NMR (CDCl3) δ 1.58-1.73 (m, 3H), 1.95-2.08 (m, 3H), 2.38-2.48 (m, 8H), 2.93 (s, 2H), 4.14 (d, 2H, J=9.0 Hz), 4.27 (d, 2H, J=6.0 Hz), 5.02 (d, 1H, J=18.0 Hz), 5.16 (d, 1H, J=9.0 Hz), 5.71-5.84 (m, 1H), 5.96 (s, 1H), 7.06 (dd, 2H, J=6.0, 3.0 Hz), 7.12 (s, 1H), 7.40 (d, 2H, J=9.0 Hz), 8.46 (s, 2H). 13C NMR (CDCl3) δ 19.21, 23.68, 25.45, 30.08, 31.94, 49.56, 62.43, 114.86, 118.69, 122.07, 131.27, 133.15, 136.13, 138.79, 141.84, 147.25, 160.74. ES-MS m/z 402 [M+H]+. Anal. Calcd. for C25H31N5.1.5H2O: C, 70.06; H, 8.00; N, 16.34. Found: C, 70.19; H, 7.98; N, 16.05.

reactant | 1′-[2-(3H-imidazol-4-yl)-ethyl]-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 0.56 mmol, 202 mg | N1=CNC(=C1)CCN1C(CCCC1C1=NC=CC=C1C)C1=NC=CC=C1C | C22H27N5
reactant | NaH | 0.21 mmol, 8 mg | [H-].[Na+]
reactant | allyl bromide | 0.19 mmol, 16 mL | C(C=C)Br | C3H5Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1′-[2-(1-Allyl-1H-imidazol-4-yl)-ethyl]-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 25 mg, 33% | C(C=C)N1C=NC(=C1)CCN1C(CCCC1C1=NC=CC=C1C)C1=NC=CC=C1C | C25H31N5
